datasets/10k_Mayr_OG.csv
SMILES Labelled
"CC1(C)C(C)(C)[O:62][B-:11](C2=CC=C(C(F)(F)F)C=C2)([CH:10](C)C)[O:12]1.Cl[C:53]1=[CH:54][CH:55]=[CH:56][C:51]([C+:20]([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)=[CH:52]1>>CC1(C)C(C)(C)[O:62][B-:11](C2=CC=C(C(F)(F)F)C=C2)=[O+:12]1.C[CH:10](C)[C:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)([C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][C:53](Cl)=[CH:54][CH:55]=[CH:56]1 10,11=10,20;12=11,12"
"C1CCC[C:11](=[CH2:10])CC1.CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[C:34](N(C)C)[CH:35]=[CH:36]2)C1(C)C>>CN1C(=O)C(CC2=CC=CC=C2)[N:23]([CH:22]=[CH:21][CH:20]([CH2:10][C+:11]2CCCCCC2)[C:31]2=[CH:32][CH:33]=[C:34](N(C)C)[CH:35]=[CH:36]2)C1(C)C 10,11=10,20;20,21=21,22;22,23=23"
C1C[C:33]2=[C:34](O1)[CH:35]=[CH:36][C:31]([CH+:20][C:41]1=[CH:42][C:43]3=[C:44](OCC3)[CH:45]=[CH:46]1)=[CH:32]2.FC(F)(F)[S:61]([CH-:10][C:81]1=[CH:82][CH:83]=[C:84]([C:85]#[N:86])[CH:93]=[CH:92]1)(=[O:62])=[O:72]>>FC(F)(F)[S:61]([CH:10]([CH:20]([C:31]1=[CH:32][C:33]2=[C:34](OCC2)[CH:35]=[CH:36]1)[C:41]1=[CH:42][C:43]2=[C:44](OCC2)[CH:45]=[CH:46]1)[C:81]1=[CH:82][CH:83]=[C:84]([C:85]#[N:86])[CH:93]=[CH:92]1)(=[O:62])=[O:72] 10=20
"C1=C[C:61]2=[C:62](C=C1)[NH:12][N:11]=[N:10]2.CO[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[CH:21]/[CH:22]=[N+:23]2/C(CC3=CC=CC=C3)C(=O)N(C)C2(C)C)[CH:36]=[CH:35]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([N:10]2[N:11]=[NH+:12][C:62]3=[C:61]2C=CC=C3)[CH:21]=[CH:22][N:23]2C(CC3=CC=CC=C3)C(=O)N(C)C2(C)C)[CH:36]=[CH:35]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1CN([C:34]2=[CH:33][CH:32]=[C:31]([CH+:20][C:41]3=[CH:42][CH:43]=[C:44](N4CCOCC4)[CH:45]=[CH:46]3)[CH:36]=[CH:35]2)CCO1.C[Si](C)(C)C12[C:62]3([CH:11]=[CH2:10])[Co-3:63]1(C#[O+])(C#[O+])(C#[O+])[Co-3:73]23(C#[O+])(C#[O+])C#[O+]>>C[Si](C)(C)C12[C:62]3([CH+:11][CH2:10][CH:20]([C:31]4=[CH:32][CH:33]=[C:34](N5CCOCC5)[CH:35]=[CH:36]4)[C:41]4=[CH:42][CH:43]=[C:44](N5CCOCC5)[CH:45]=[CH:46]4)[Co-3:63]1(C#[O+])(C#[O+])(C#[O+])[Co-3:73]23(C#[O+])(C#[O+])C#[O+] 10,11=10,20"
"COC1=CC=C([C:22]2=[O+:23][C:32]3=[C:31](C=CC=C3)[CH:20]=[CH:21]2)C=C1.C[N:12]1C2=C(C=CC=C2)[S:62]/[C:11]1=[CH:10]/C1=CC=CC=C1>>COC1=CC=C([C:22]2=[CH:21][CH:20]([CH:10](C3=CC=CC=C3)[C:11]3=[N+:12](C)C4=C(C=CC=C4)[S:62]3)[C:31]3=[C:32](C=CC=C3)[O:23]2)C=C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1CC[C:21](=[O:20])C1.CC[O:82][C:71]([C-:10]1CCCCCC[C:62]1=[O:61])=[O:72]>>CC[O:82][C:71]([C:10]1([O:20][C-:21]2CCCC2)CCCCCC[C:62]1=[O:61])=[O:72] 10=20;20,21=21"
"C[N:21](C1=CC=CC=C1)[S:20]C(F)(F)F.C[Si:63](C)(C)[O:12]/[C:11](=[CH:10]\C1=CC=CC=C1)[C:72]1=[CH:73][CH:74]=[CH:75][CH:84]=[CH:83]1>>C[N-:21]C1=CC=CC=C1.C[Si:63](C)(C)[O+:12]=[C:11]([CH:10](C1=CC=CC=C1)[S:20]C(F)(F)F)[C:72]1=[CH:73][CH:74]=[CH:75][CH:84]=[CH:83]1 10,11=10,20;12=11,12;20,21=21"
"CC1=CC(C)=C(C(C)C[CH+:20][C:31]2=[C:32](C)[CH:33]=[C:34](C)[CH:35]=[C:36]2C)C(C)=C1.CCC[C:11]1([H:10])CC[CH:13]=[CH:12]1>>CC1=CC(C)=C(C(C)C[CH:20]([H:10])[C:31]2=[C:32](C)[CH:33]=[C:34](C)[CH:35]=[C:36]2C)C(C)=C1.CCC[C:11]1=[CH:12][CH+:13]CC1 10,11=10,20;12,13=11,12"
"C1=CC=C(C[O:33][C:22](/[N:21]=[N:20]/[C:41](=[O:42])[O:43]CC2=CC=CC=C2)=[O:23])C=C1.C[C:11]1=[CH:10][CH:71]=[CH:72][C:63](C)=[CH:62]1>>C[C+:11]1[CH:10]([N:20]([N:21]=[C:22]([O-:23])[O:33]CC2=CC=CC=C2)[C:41](=[O:42])[O:43]CC2=CC=CC=C2)[CH:71]=[CH:72][C:63](C)=[CH:62]1 10,11=10,20;20,21=21,22;22,23=23"
"COC1=CC=C(C[C:10]2=[C:11]([O-:12])[O:82]C(C)(C)[O:72][C:61]2=[O:62])C=C1.FC(F)(F)[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](C(F)(F)F)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>COC1=CC=C(C[C:10]2([C:20]([C:31]3=[CH:32][CH:33]=[C:34](C(F)(F)F)[CH:35]=[CH:36]3)([C:41]3=[CH:42][CH:43]=[C:44](C(F)(F)F)[CH:45]=[CH:46]3)[C:51]3=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]3)[C:11](=[O:12])[O:82]C(C)(C)[O:72][C:61]2=[O:62])C=C1 10,11=10,20;12=11,12"
"C=C(C)CCCC[C:11](C)=[CH2:10].N#C[C:33]1=[CH:32][C:21]([N+:22]([O-])=[O:23])=[CH:20][C:41]2=[N+:42]([O-])O[N:35]=[C:34]12>>C=C(C)CCCC[C+:11](C)[CH2:10][CH:20]1[C:21](=[N+:22]([O-])[O-:23])[CH:32]=[C:33](C#N)[C:34]2=[N:35]O[N+:42]([O-])=[C:41]12 10,11=10,20;20,21=21,22;22,23=23"
"CCCC/[C:10](=[C:11](/[O-:12])[O:61]CC)[C:72](=[O:73])[O:83]CC.F[C:43]1=[CH:44][CH:45]=[CH:46][C:41]([C+:20]([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:51]2=[CH:52][C:53](F)=[CH:54][CH:55]=[CH:56]2)=[CH:42]1>>CCCC[C:10]([C:11](=[O:12])[O:61]CC)([C:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)([C:41]1=[CH:42][C:43](F)=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][C:53](F)=[CH:54][CH:55]=[CH:56]1)[C:72](=[O:73])[O:83]CC 10,11=10,20;12=11,12"
"CCC[O:62][Si:11](C)(C)[H:10].CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[CH:22]=[C:23](C(C)(C)C)[C:24](=[O:25])[C:33](C(C)(C)C)=[CH:32]2)[CH:46]=[CH:45]1>>CCC[O:62][Si+:11](C)C.CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([H:10])[C:21]2=[CH:22][C:23](C(C)(C)C)=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32]2)[CH:46]=[CH:45]1 10,11=10,20;20,21=21,22;22,23=23,24;24,25=25"
